US04258058
ethyl 2-{4-[2-(benzenesulphonylamino)-ethyl]-phenoxy}-2-methylpropionate
from ethyl 2-[4-(2-aminoethyl)-phenoxy]-2-methylpropionate and benzenesulphonyl chloride;

reactant | ethyl 2-[4-(2-aminoethyl)-phenoxy]-2-methylpropionate | NCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H21NO3
reactant | benzenesulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | ethyl 2-{4-[2-(benzenesulphonylamino)-ethyl]-phenoxy}-2-methylpropionate | C1(=CC=CC=C1)S(=O)(=O)NCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C20H25NO5S
